US07101880B2
N-(Benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester (Aldrich No. 37,635-3; 6.7 g, 20 mmol) and 1,8-diazabicyclo[5,4,0]undec-7-ene (Aldrich No. 13, 900-9; 3.3 mL, 22 mmol) were dissolved in methylene chloride (11 mL) and stirred at room temperature for 15 min., and then cooled to <−30° C. A solution of 2,6-difluorobenzaldehyde (1.9 mL, 20 mmol) in methylene chloride (25 mL) was added to the reaction mixture dropwise over 20 min. The reaction mixture was stirred for another 20 min., and then allowed to warm up to room temperature for 30 min. The reaction mixture was then poured into ethyl ether (300 mL) and washed with 1 N HCl, brine and dried over MgSO4. Rotary evaporation gave 2-benzyloxycarbonylamino-3-(2,6-difluorophenyl)acrylic acid methyl ester. This crude product was purified by chromatography on a Medium Pressure Liquid Column (MPLC) eluting with 20% ethyl acetate/80% hexane to give pure product (5 g, 72% yield, liquid).

reactant | N-(Benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 22 mmol, 3.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2,6-difluorobenzaldehyde | 20 mmol, 1.9 mL | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | ethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 11 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyloxycarbonylamino-3-(2,6-difluorophenyl)acrylic acid methyl ester | 72% yield | COC(C(=CC1=C(C=CC=C1F)F)NC(=O)OCC1=CC=CC=C1)=O | C18H15F2NO4
